US04697012
A mixture of 2-hydroxy-4-(4-pyridyl)thiazole (17.8 g, 0.10 mol) in phosphorous oxychloride (175 mL) was heated at 140° C. for 48 hours then quenched by carefully pouring onto ice (4000 mL). The resulting mixture was basified with 50% sodium hydroxide to pH 9 and extracted with methylene chloride (5×400 mL). The combined extracts were dried over sodium sulfate, concentrated, and chromatographed over silica gel (ethyl acetate as eluant). Recrystallization from ethyl acetate/hexane afforded 2-chloro-4-(4-pyridyl)thiazole (5.70 g, 29%). mp. 124°-125° C.

reactant | 2-hydroxy-4-(4-pyridyl)thiazole | 0.10 mol, 17.8 g | OC=1SC=C(N1)C1=CC=NC=C1 | C8H6N2OS
reactant | phosphorous oxychloride | 175 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-4-(4-pyridyl)thiazole | 5.70 g, 29% | ClC=1SC=C(N1)C1=CC=NC=C1 | C8H5ClN2S
